US07534880B2
4. Preparation of 2-dimethylamino-1-{4-[4-(2-hydroxy-2-methyl-propionyl)-phenoxy]-phenyl}-butan-1-one
A solution of 7.9 g (0.0195 mol) of 2-bromo-1-{4-[4-(2-hydroxy-2-methyl-propionyl)-phenoxy]-phenyl}-butan-1-one in diethyl ether was added drop wise to a solution of 58.5 ml of dimethylamine 2M in THF (0.117 mol), maintaining the temperature between 0° C. and 5° C. After one night the reaction was diluted with ether, washed three times with water, dried with sodium sulphate and evaporated obtaining 7.47 g of an oil used without purification in the following step.

reactant | 2-bromo-1-{4-[4-(2-hydroxy-2-methyl-propionyl)-phenoxy]-phenyl}-butan-1-one | 0.0195 mol, 7.9 g | BrC(C(=O)C1=CC=C(C=C1)OC1=CC=C(C=C1)C(C(C)(C)O)=O)CC | C20H21BrO4
reactant | dimethylamine | 2M, 58.5 ml | CNC | C2H7N
reactant | THF | 0.117 mol | C1CCOC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | ether | CCOCC | C4H10O
product | 2-dimethylamino-1-{4-[4-(2-hydroxy-2-methyl-propionyl)-phenoxy]-phenyl}-butan-1-one | 7.47 g | CN(C(C(=O)C1=CC=C(C=C1)OC1=CC=C(C=C1)C(C(C)(C)O)=O)CC)C | C22H27NO4
